US05994569
954 mg of (3E,5E)-(R)-8-[(1R,4aR,5S,8aR)-5-(tert-butyldimethylsilanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-2-methyl-nona-3,5-dien-2-ol were treated with 10 equivalents of anhydr. TBAF (2 M in THF) at 55° for 24 h. The reaction mixture was poured onto crushed ice/NH4Cl, extracted with ether, washed with water and brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=7/3) yielded 685 mg of (1S,4aR,5R,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-decahydro-naphthalen-1-ol as pale-yellow oil.

reactant | (3E,5E)-(R)-8-[(1R,4aR,5S,8aR)-5-(tert-butyldimethylsilanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-2-methyl-nona-3,5-dien-2-ol | 954 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](C/C=C/C=C/C(C)(O)C)C | C27H50O2Si
reactant | TBAF | 2 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | (1S,4aR,5R,8aR)-5-((3E,5E)-(R)-7-hydroxy-1,7-dimethyl-octa-3,5-dienyl)-4a-methyl-decahydro-naphthalen-1-ol | 685 mg | OC(/C=C/C=C/C[C@@H](C)[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C)(C)C | C21H36O2
